US08378107B2
Step 1: Benzyl-prop-(E)-ylidene-amine
To an ice-cold solution of benzylamine (20.0 g, 184 mmol) was added propionaldehyde (10.8 g, 184 mmol) over 1 hour. Potassium hydroxide (5.2 g, 92.7 mmol) was added, and the reaction was allowed to stand for 1 hour, during which time the solution separated into two layers. The organic layer was isolated and stored over potassium hydroxide pellets overnight in the refrigerator to give the product as a cloudy liquid, which was used without further purification.

reactant | benzylamine | 184 mmol, 20.0 g | C(C1=CC=CC=C1)N | C7H9N
reactant | propionaldehyde | 184 mmol, 10.8 g | C(CC)=O | C3H6O
reactant | Potassium hydroxide | 92.7 mmol, 5.2 g | [OH-].[K+]
product | Benzyl-prop-(E)-ylidene-amine | C(C1=CC=CC=C1)/N=C/CC | C10H13N
